US05747486
To a mixture of 2-amino-3-(3,4-dimethoxybenzoyl)-4,5-dimethylthiophene (3.0 g) and chloroacetonitrile (11 g) was added, in limited amounts, powdered aluminum chloride (2.75 g). The mixture was stirred for 2.5 hours at 100° C. The reaction mixture was poured into ice-water, which was subjected to extraction with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and water, which was dried (MgSO4). Chloroform was distilled off, and the residue was subjected to column chromatography on silica gel. From the fraction eluted with dichloromethane, 2-chloromethyl-4-(3,4-dimethoxyphenyl)-5,6-dimethylthieno[2,3-d]pyrimidine (1.58 g, 44%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless prisms, m.p.117°-118° C.

reactant | 2-amino-3-(3,4-dimethoxybenzoyl)-4,5-dimethylthiophene | 3.0 g | NC=1SC(=C(C1C(C1=CC(=C(C=C1)OC)OC)=O)C)C | C15H17NO3S
reactant | chloroacetonitrile | 11 g | ClCC#N | C2H2ClN
reactant | aluminum chloride | 2.75 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-chloromethyl-4-(3,4-dimethoxyphenyl)-5,6-dimethylthieno[2,3-d]pyrimidine | 1.58 g, 44% | ClCC=1N=C(C2=C(N1)SC(=C2C)C)C2=CC(=C(C=C2)OC)OC | C17H17ClN2O2S
